US07846960B2
A solution of 6-hydroxy-2-methyl-benzofuran-3-carboxylic acid methyl ester (9.5 g, 46.07 mmol) in dichloromethane (100 mL) and triethylamine (12.8 mL, 92.14 mmol) at 0° C. is treated with trifluoromethanesulfonic anhydride (8.54 L, 50.68 mmol). The reaction mixture is stirred at 0° C. for 60 minutes and quenched with MeOH (10 mL). The mixture is concentrated to a residue, which is purified by silica gel chromatography with 20% EtOAc/Hexanes to provide the 2-methyl-6-trifluoromethanesulfonyloxy-benzofuran-3-carboxylic acid methyl ester (14.1 g, 90%). 1H NMR (400 MHz, CDCl3): δ 7.99-7.96 (d, 1H), 7.37 (s, 1H), 7.21-7.18 (d, 1H), 3.93 (s, 3H), 2.76 (s, 3H).

reactant | 6-hydroxy-2-methyl-benzofuran-3-carboxylic acid methyl ester | 46.07 mmol, 9.5 g | COC(=O)C1=C(OC2=C1C=CC(=C2)O)C | C11H10O4
reactant | triethylamine | 92.14 mmol, 12.8 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic anhydride | 50.68 mmol, 8.54 L | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 2-methyl-6-trifluoromethanesulfonyloxy-benzofuran-3-carboxylic acid methyl ester | 14.1 g, 90% | COC(=O)C1=C(OC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F)C | C12H9F3O6S
